US09381191B2
0.303 g (1.773 mmol) of 2-(chloromethyl)imidazo[1,2-a]pyridine were dissolved in 15 ml of dimethylformamide with magnetic stirring and then 0.253 g (1.773 mmol) of sarcosine methylester hydrochloride and 0.741 ml (5.32 mmol) of triethylamine were added. The mixture was stirred at r.t. for 16 h, and then treated with 30 ml of a saturated NaCl aqueous solution. The aqueous phase was concentrated in vacuo. The residue was triturated in 75 ml of isopropanol, the salts were removed by filtration and the filtrate was concentrated in vacuo. The crude residue was purified by flash chromatography on a silica gel cartridge (eluent: dichloromethane/methanol, 95/5, v/v). 0.107 g (yield=26%) of methyl 2-((imidazo[1,2-a]pyridin-2-ylmethyl)(methyl)amino)acetate were obtained as a pale yellow oil. LC-MS: m/z=234 (MH+); UV purity at 254 nm=99%. 1H NMR (300 MHz, DMSO) δ 8.49 (d, J=6.8 Hz, 1H), 7.79 (s, 1H), 7.47 (d, J=9.0 Hz, 1H), 7.18 (ddd, J=9.0, 6.7, 1.2 Hz, 1H), 6.84 (td, J=6.7, 1.1 Hz, 1H), 3.76 (s, 2H), 3.61 (s, 3H), 2.32 (s, 3H).

reactant | 2-(chloromethyl)imidazo[1,2-a]pyridine | 1.773 mmol, 0.303 g | ClCC=1N=C2N(C=CC=C2)C1 | C8H7ClN2
reactant | sarcosine methylester hydrochloride | 1.773 mmol, 0.253 g | Cl.COC(CNC)=O
reactant | triethylamine | 5.32 mmol, 0.741 ml | C(C)N(CC)CC | C6H15N
reactant | NaCl | 30 ml | [Na+].[Cl-]
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | methyl 2-((imidazo[1,2-a]pyridin-2-ylmethyl)(methyl)amino)acetate | 0.107 g, yield=26% | N=1C(=CN2C1C=CC=C2)CN(CC(=O)OC)C | C12H15N3O2
